US05521188
B. 3-[3-[4-(5-Methoxy-4-pyrimidyl)-1-piperazinyl]propyl]-5-(1,2-dioxo-4-isopropylamino-3-cyclobuten-3-yl)-1H-indole (I-6)
To a solution of 3-[3-[4-(5-methoxy-4-pyrimidyl)-1-piperazinyl]propyl]-5-(1,2-dioxo-4-isopropylamino-3-cyclobuten-3-yl) -1-triisopropylsilylindole (0.270 g, 0.42 mmol) in 10 mL of acetonitrile was added 48% HF (30 μL, 0.84 mmol) and the mixture was stirred at room temperature for 2 h. The resulting mixture was evaporated and the residue was partitioned between saturated aqueous NaHCO3 and ethyl acetate. The organic phase was separated and the aqueous phase was back-extracted with ethyl acetate. The combined organic extracts were dried (Na2SO4) and evaporated to give a yellow foam. Crystallization from ethanol at -20° C. afforded the title compound (0.192 g, 94%) as a light yellow solid, mp 104°-106° C.: IR (KBr) 3230 (br), 1768, 1710, 1580 (br) cm-1 ; 1H NMR (DMSO-d6, 200 MHz) δ11.15 (s, 1H), 8.77 (d, J=8.6 Hz, 1H), 8.35 (s, 1H), 8.22 (s, 1H), 8.01 (s, 1H), 7.75 (d, J=8.5 Hz, 1H), 7.46 (d, J=8.5 Hz, 1H), 7.25 (d, J=1.7 Hz, 1H), 4.59 (m, 1H), 4.35 (t, J=5.1 Hz, 2H), 3.82 (s, 3H), 3.68 (br s, 4H), 3.43 (m, 1.7H, CH3CH2OH), 2.78 (t, J=7.4 Hz, 2H), 2.5-2.3 (m, 6H), 1.86 (m, 2H), 1.31 (d, J=6.5 Hz, 6H), 1.05 (t, J=7.0 Hz, 2.6H, CH3CH2OH). Anal. Calcd for C24H26N6O3. 0.5 H2O. 0.85 C2H6O: C, 64.22; H, 7.15; N, 15.66. Found: C, 64.30; H, 6.78; N, 15.48.

reactant | 3-[3-[4-(5-methoxy-4-pyrimidyl)-1-piperazinyl]propyl]-5-(1,2-dioxo-4-isopropylamino-3-cyclobuten-3-yl) -1-triisopropylsilylindole | 0.42 mmol, 0.270 g | COC=1C(=NC=NC1)N1CCN(CC1)CCCC1=CN(C2=CC=C(C=C12)C=1C(C(C1NC(C)C)=O)=O)[Si](C(C)C)(C(C)C)C(C)C | C36H52N6O3Si
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 3-[3-[4-(5-Methoxy-4-pyrimidyl)-1-piperazinyl]propyl]-5-(1,2-dioxo-4-isopropylamino-3-cyclobuten-3-yl)-1H-indole | 0.192 g, 94% | COC=1C(=NC=NC1)N1CCN(CC1)CCCC1=CNC2=CC=C(C=C12)C=1C(C(C1NC(C)C)=O)=O | C27H32N6O3
